* Comparator Model
* Ideal model. Utilizes the Generic Switch and Current-Controlled Voltage Source components to produce the output voltage, which
* is the one set by the VOUT parameter.

.SUBCKT comparator non_inv inv out
+PARAMS: VOUT=5

* VCC
V_VCC vcc 0 {VOUT}

* Resistances
R_VCC vcc n1 1
R_OUT n1 0 2

* The output voltage is given by a current-controlled voltage source.
H_VOUT out 0 V_IMEAS 4

* Current measurement voltage source (0V)
V_IMEAS imeas 0 0

* Generic Switch and its blank model.
* Any voltage higher than 1e-5 V closes the switch.
* RON is in parallel with R_OUT, resulting in a 1ohm resistance. The current crossing the switch is therefore (V_VCC/2)/2, thus a transconductance
* of 4 is needed for the current-controlled voltage source
SW_COMPVCC n1 imeas SWV OFF CONTROL={V(non_inv, inv)}
.MODEL SWV SWITCH ON=1e-5 OFF=0 ROFF=1e6 RON=2

.ENDS comparator
